US05792769
h) 2-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]phenyl ester
To a solution of 2-chlorobenzenesulfonic acid 3-hydroxyphenyl ester (285 mg, 1.0 mmol), as prepared in step d, in DMF (5 mL) was added NaH (95%, 26 mg, 1.1 mmol). The reaction was stirred under nitrogen for 10 min. N-(tert-Butoxycarbonyl)-4-piperidinemethanol methanesulfonate (293 mg, 1.0 mmol), as prepared in the preceding step, was added and the reaction mixture was stirred at 50° C. under nitrogen for 3 h. The reaction mixture was then partitioned between water (50 mL) and ethyl acetate (150 mL). The organic phase was washed sequentially with saturated NaHCO3 (2×50 mL) and brine (2×50 mL), dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography (2:1 hexane:ethyl acetate) to give the title compound as a colorless syrup (325 mg, 69%). 1H-NMR (300 MHz, CDCl3) δ 1.26 (m, 2H), 1.47 (s, 9H), 1.78 (d, 2H), 1.91 (m, 1H), 2.74 (t, 2H), 3.72 (d, 2H), 4.13 (m, 2H), 6.69 (m, 2H), 6.76 (dd, 1H), 7.16 (m, 1H), 7.37 (t, 1H), 7.62 (m, 2H), 7.95 (dd, 1H).

reactant | 2-chlorobenzenesulfonic acid 3-hydroxyphenyl ester | 1.0 mmol, 285 mg | OC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C12H9ClO4S
reactant | NaH | 1.1 mmol, 26 mg | [H-].[Na+]
reactant | N-(tert-Butoxycarbonyl)-4-piperidinemethanol methanesulfonate | 1.0 mmol, 293 mg | CS(=O)(=O)OCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO5S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]phenyl ester | 325 mg, 69% | C(C)(C)(C)OC(=O)N1CCC(CC1)COC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C23H28ClNO6S
